US05412097
A mixture of 5-chloro-2-ethyl-7-methylimidazo[4,5-b]pyridine (22.2 g, 0.113 mol) in 30% HBr-HOAc was heated to 100° C. for 19 h. The mixture was poured onto ice, neutralized with NH4OH, extracted (5×EtOAc), and the organic layers were concentrated to afford 5-bromo-2-ethyl-7-methylimidazo[4,5-b]pyridine as a solid, after crystallization from EtOAc.

reactant | 5-chloro-2-ethyl-7-methylimidazo[4,5-b]pyridine | 0.113 mol, 22.2 g | ClC1=CC(=C2C(=N1)N=C(N2)CC)C | C9H10ClN3
reactant | NH4OH | [NH4+].[OH-]
reactant | HBr HOAc | Br.CC(=O)O
product | 5-bromo-2-ethyl-7-methylimidazo[4,5-b]pyridine | BrC1=CC(=C2C(=N1)N=C(N2)CC)C | C9H10BrN3
